US07816371B2
a. (R)-2-(6-Chloro-5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate
A vial was charged with (R)-2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propyl acetate (160 mg, 0.00054 mol), methylene chloride (10 mL, 0.2 mol), 2-(3-fluoro-4-(trifluoromethyl)phenyl)acetic acid (145 mg, 0.000651 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (413 mg, 0.00108 mol), and N,N-diisopropylethylamine (0.189 mL, 0.00108 mol), and was stirred at 40° C. for 2 days. The reaction was only 50% complete. The solvent was removed and the residue purified by flash chromatography (0-75% ethylacetate/hexane) to obtain the product as a colorless oil. MS m/z=499.3 (M+H)

reactant | (R)-2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.00054 mol, 160 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)N)Cl)=O | C14H15ClN2O3
reactant | methylene chloride | 0.2 mol, 10 mL | C(Cl)Cl | CH2Cl2
reactant | 2-(3-fluoro-4-(trifluoromethyl)phenyl)acetic acid | 0.000651 mol, 145 mg | FC=1C=C(C=CC1C(F)(F)F)CC(=O)O | C9H6F4O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.00108 mol, 413 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.00108 mol, 0.189 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (R)-2-(6-Chloro-5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O)Cl)=O | C23H19ClF4N2O4
